US09428456B2
5-Fluoro-pyridine-2-carboxylic acid (3-formyl-phenyl)-amide L-8
The title compound is prepared by treatment with HCl 10% of 5-fluoro-pyridine-2-carboxylic acid (3-[1,3]dioxolan-2-yl-phenyl)-amide: LC-MS A: tR=0.79 min; [M+H]+=245.05.

reactant | HCl | Cl | ClH
reactant | 5-fluoro-pyridine-2-carboxylic acid (3-[1,3]dioxolan-2-yl-phenyl)-amide | O1C(OCC1)C=1C=C(C=CC1)NC(=O)C1=NC=C(C=C1)F | C15H13FN2O3
product | 5-Fluoro-pyridine-2-carboxylic acid (3-formyl-phenyl)-amide | C(=O)C=1C=C(C=CC1)NC(=O)C1=NC=C(C=C1)F | C13H9FN2O2
